US07094801B2
4-{3E-[5-(2-Cyclopropyl-1H-imidazol-4-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide
To a solution of 4-acetyl-benzenesulfonamide (Ex-26A, 0.12 g, 0.59 mmol) and 5-(2-cyclopropyl-1H-imidazol-4-yl)-2,4-dimethoxy-benzaldehyde (Ex-105B, 0.16 g, 0.59 mmol) in N,N-dimethylformamide (16 mL) was added lithium methoxide (1.0M in methanol, 2.4 mL, 2.4 mmol). The reaction mixture was allowed to stir for 18 hours at ambient temperature. The reaction was quenched with water. The aqueous solution was extracted with dichloromethane. The combined dichloromethane was concentrated. The crude product was purified by flash chromatography. Elution with methanol (10%, v/v, in dichloromethane) gave the title compound as red solid: m.p. 156–160° C. 1H NMR (DMSO-d6) δ 11.65 (bs, 1H), 8.32 (s, 1H), 8.19 (d, J=9.0 Hz, 2H), 8.00 (d, J=15.7 Hz, 1H), 7.95 (d, J=9.0 Hz, 2H), 7.62–7.52 (m, 2H), 7.24 (bs, 1H), 6.73 (s, 1H), 3.96 (s, 3H), 3.94 (s, 3H), 1.98–1.94 (m, 1H), 0.88–0.85 (m 4H). MS m/z=454 ([M+H]+, 100%).

reactant | 4-acetyl-benzenesulfonamide | 0.59 mmol, 0.12 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 5-(2-cyclopropyl-1H-imidazol-4-yl)-2,4-dimethoxy-benzaldehyde | 0.59 mmol, 0.16 g | C1(CC1)C=1NC=C(N1)C=1C(=CC(=C(C=O)C1)OC)OC | C15H16N2O3
reactant | lithium methoxide | 2.4 mmol, 1.0M, 2.4 mL | C[O-].[Li+]
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
product | 4-{3E-[5-(2-Cyclopropyl-1H-imidazol-4-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide | C1(CC1)C=1NC=C(N1)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C23H23N3O5S
